US05068325
4k) 2-Amino-6-(3-(4-methoxy-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 4-methoxy-cinnamyl chloride and 1 equivalent of 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine in the presence of 1 equivalent of potassium carbonate in chloroform. Yield: 10% of theory, Melting point: 155-160° C. (ether).

reactant | 4-methoxy-cinnamyl chloride | COC1=CC=C(C=CCCl)C=C1 | C10H11ClO
reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | 1 equivalent | NC=1SC=2CCNCCC2N1 | C7H11N3S
reactant | potassium carbonate | 1 equivalent | C([O-])([O-])=O.[K+].[K+]
reactant | ether | CCOCC | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-6-(3-(4-methoxy-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 10% | NC=1SC=2CCN(CCC2N1)CC=CC1=CC=C(C=C1)OC | C17H21N3OS
